US07034039B2
To a solution of ethyl 2-cyclopropylmethyl-6-fluoro-4-hydroxy-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (9.16 g, 30 mmol), 1-butanol (3.3 mL, 45 mmol) and tributylphosphine (14.9 mL, 60 mmol) in tetrahydrofuran (100 mL) was added 1,1′-(azodicarbonyl)dipiperidine (15.14 g, 60 mmol) and the mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl 4-butoxy-2-cyclopropylmethyl-6-fluoro-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (9.24 g, 85.2%) as an oil.

reactant | ethyl 2-cyclopropylmethyl-6-fluoro-4-hydroxy-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 30 mmol, 9.16 g | C1(CC1)CN1C(C2=CC=C(C=C2C(=C1C(=O)OCC)O)F)=O | C16H16FNO4
reactant | 1-butanol | 45 mmol, 3.3 mL | C(CCC)O | C4H10O
reactant | tributylphosphine | 60 mmol, 14.9 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 60 mmol, 15.14 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 4-butoxy-2-cyclopropylmethyl-6-fluoro-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 9.24 g, 85.2% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)F)=O)CC1CC1)C(=O)OCC | C20H24FNO4
